US08242133B2
A mixture of 0.35 g of 2-amino-4-trifluoromethoxy phenol, 0.29 g of 3-chloroisonicotinic acid, 1.04 g of (benzotriazole-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate (hereinafter, referred to as a BOP reagent), 0.24 g of triethylamine and 5 ml of DMF was stirred at room temperature for two hours. Water was added to the reaction mixture, precipitated solid was collected by filtration. The resultant solid was dissolved in ethyl acetate. Then, the organic layer was washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.43 g of 3-chloro-N-[2-hydroxy-5-(trifluoromethoxy)phenyl]isonicotinamide.

reactant | 2-amino-4-trifluoromethoxy phenol | 0.35 g | NC1=C(C=CC(=C1)OC(F)(F)F)O | C7H6F3NO2
reactant | 3-chloroisonicotinic acid | 0.29 g | ClC1=C(C(=O)O)C=CN=C1 | C6H4ClNO2
reactant | (benzotriazole-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate | 1.04 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | BOP reagent | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.24 g | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-chloro-N-[2-hydroxy-5-(trifluoromethoxy)phenyl]isonicotinamide | 0.43 g | ClC1=C(C(=O)NC2=C(C=CC(=C2)OC(F)(F)F)O)C=CN=C1 | C13H8ClF3N2O3
